US08110585B2
ethyl (2E)-3-(2-methylpyrazolo[1,5-a]pyridin-4-yl)acrylate
Under nitrogen atmosphere, to a suspension of sodium hydride (2.70 g, 61.8 mmol) in tetrahydrofuran (42 mL) was added a solution of ethyl diethylphosphonoacetate (13.8 g, 61.8 mmol) in tetrahydrofuran (20 mL) at 0° C., and the mixture was stirred for 20 min. To the reaction mixture was added a solution of 2-methylpyrazolo[1,5-a]pyridine-4-carbaldehyde (9.00 g, 56.2 mmol) in tetrahydrofuran (50 mL), and the mixture was warmed to room temperature over 4 hr. Water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1) to give the title compound (11.8 g, yield 91%).

reactant | sodium hydride | 61.8 mmol, 2.70 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 61.8 mmol, 13.8 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-methylpyrazolo[1,5-a]pyridine-4-carbaldehyde | 56.2 mmol, 9.00 g | CC1=NN2C(C(=CC=C2)C=O)=C1 | C9H8N2O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 42 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ethyl (2E)-3-(2-methylpyrazolo[1,5-a]pyridin-4-yl)acrylate | 11.8 g, yield 91% | CC1=NN2C(C(=CC=C2)/C=C/C(=O)OCC)=C1 | C13H14N2O2
